US04315029
α-Cyano-3-phenoxybenzyl alcohol (8.5 g) was added to a solution of 10.0 g of trans-2,2-dimethyl-3-(2,2,2-trichloroethyl)cyclopropanecarbonyl chloride in 80 ml of dry benzene, then 4.5 g of pyridine was added gradually and the mixture was stirred at room temperature overnight. Thereafter, about 70 ml of water was added to the reaction mixture, the benzene layer was separated, washed with water and dried over anhydrous magnesium sulfate, and low-boiling fractions were distilled off under reduced pressure. There was obtained an oily product, which was purified by preparative liquid chromatography under the conditions mentioned in SYNTHESIS EXAMPLE 25 to give 13.3 g (77% yield) of α-cyano-3-phenoxybenzyl trans-2,2-dimethyl-3-(2,2,2-trichloroethyl)cyclopropanecarboxylate with a ratio of racemic modifications D1 '/D2 ' of about 50/50.

reactant | α-Cyano-3-phenoxybenzyl alcohol | 8.5 g | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
reactant | trans-2,2-dimethyl-3-(2,2,2-trichloroethyl)cyclopropanecarbonyl chloride | 10.0 g | CC1([C@H]([C@@H]1CC(Cl)(Cl)Cl)C(=O)Cl)C | C8H10Cl4O
reactant | pyridine | 4.5 g | N1=CC=CC=C1 | C5H5N
reactant | water | about 70 ml | O | H2O
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | α-cyano-3-phenoxybenzyl trans-2,2-dimethyl-3-(2,2,2-trichloroethyl)cyclopropanecarboxylate | 13.3 g, 77% yield | CC1([C@H]([C@@H]1CC(Cl)(Cl)Cl)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C22H20Cl3NO3
